US07776872B2
A mixture of 3-iodo-naphthalen-2-ol (2.0 g, 7.4 mmol), bromoacetonitrile (1.066 g, 8.88 mmol) and potassium carbonate (2.04 g, 14.81 mmol) in three mL of acetonitrile was stirred at room temperature for 16 hours. The reaction mixture was diluted with methylene chloride and filtered. The filtrate was washed with 2% aqueous NaOH solution, water, and saturated brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was crystallized from EtOAc/hexanes to give 2.07 g of (3-iodo-naphthalen-2-yloxy)-acetonitrile, MP=105-107° C., MS (M+H)=309.

reactant | 3-iodo-naphthalen-2-ol | 7.4 mmol, 2.0 g | IC=1C(=CC2=CC=CC=C2C1)O | C10H7IO
reactant | bromoacetonitrile | 8.88 mmol, 1.066 g | BrCC#N | C2H2BrN
reactant | potassium carbonate | 14.81 mmol, 2.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | three mL | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (3-iodo-naphthalen-2-yloxy)-acetonitrile | 2.07 g | IC=1C(=CC2=CC=CC=C2C1)OCC#N | C12H8INO
